US07087599B2
Potassium hydroxide (0.44 g, 85% weight pure, 6.67 mmol) and 10% palladium on activated carbon (0.42 g) were added to a mixture of 5-methoxy-1-indanone (5.0 g, 30.8 mmol) and butyraldehyde (3.3 mL, 37 mmol) in ethanol (30 mL). The resulting mixture was stirred under an atmosphere of hydrogen at room temperature for 2 hours. The mixture was filtered and the filtrate evaporated under vacuum. The residue was partitioned between EtOAc (200 mL) and water (200 mL) containing 2N HCl (5 mL). The organic phase was washed with brine (100 mL), dried over MgSO4, filtered, and evaporated under vacuum to afford crude 2-butyl-5-methoxy-1-indanone (7.0 g) as an oil.

reactant | Potassium hydroxide | 6.67 mmol, 0.44 g | [OH-].[K+]
reactant | 5-methoxy-1-indanone | 30.8 mmol, 5.0 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | butyraldehyde | 37 mmol, 3.3 mL | C(CCC)=O | C4H8O
catalyst | palladium on activated carbon | 0.42 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-butyl-5-methoxy-1-indanone | 7.0 g | C(CCC)C1C(C2=CC=C(C=C2C1)OC)=O | C14H18O2
